US05858995
A mixture of 3-aminomethyl-2-methyl-7-nitrobenzo[b]furan (278 mg) and di-tert-butyl dicarbonate (353 mg) in dichloromethane (5 ml) was stirred at ambient temperature for overnight. The reaction mixture was concentrated in vacuo and the residue was purified by column chromatography on silica gel. The obtained oil was crystallized from a mixture of diisopropyl ether and n-hexane to give 3-tert-butoxycarbonylaminomethyl-2-methyl-7-nitrobenzo[b]furan (313 mg).

reactant | 3-aminomethyl-2-methyl-7-nitrobenzo[b]furan | 278 mg | NCC=1C2=C(OC1C)C(=CC=C2)[N+](=O)[O-] | C10H10N2O3
reactant | di-tert-butyl dicarbonate | 353 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 3-tert-butoxycarbonylaminomethyl-2-methyl-7-nitrobenzo[b]furan | 313 mg | C(C)(C)(C)OC(=O)NCC=1C2=C(OC1C)C(=CC=C2)[N+](=O)[O-] | C15H18N2O5
